US07608639B2
3-(4-{3-Chloro-5-[2-(3-fluoro-phenoxy)-4-trifluoromethyl-phenoxy]-phenoxy}-2-methyl-phenyl)-propionic acid
The title compound is prepare by reacting the compound of 3-{4-[3-(2-Bromo-4-trifluoromethyl-phenoxy)-5-chloro-phenoxy]-2-methyl-phenyl}-propionic acid ethyl ester with 3-fluorophenol as in Example 45 to afford 0.025 g (23%). 1H NMR (400 MHz, CDCl3); MS (ES+) m/z mass calculated for C29H21O5F4Cl 560, found 578 and 580 (M+NH4, 100%).

reactant | 3-{4-[3-(2-Bromo-4-trifluoromethyl-phenoxy)-5-chloro-phenoxy]-2-methyl-phenyl}-propionic acid ethyl ester | C(C)OC(CCC1=C(C=C(C=C1)OC1=CC(=CC(=C1)Cl)OC1=C(C=C(C=C1)C(F)(F)F)Br)C)=O | C25H21BrClF3O4
reactant | 3-fluorophenol | FC=1C=C(C=CC1)O | C6H5FO
product | 3-(4-{3-Chloro-5-[2-(3-fluoro-phenoxy)-4-trifluoromethyl-phenoxy]-phenoxy}-2-methyl-phenyl)-propionic acid | ClC=1C=C(OC2=CC(=C(C=C2)CCC(=O)O)C)C=C(C1)OC1=C(C=C(C=C1)C(F)(F)F)OC1=CC(=CC=C1)F | C29H21ClF4O5
